US07456164B2
3-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1H-1,2,4-triazole
N-[(dimethylamino)methylene]-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxamide (0.15 g, 0.39 mmol), hydrazine hydrate (0.048 mL, 0.98 mmol) and acetic acid (1 mL) were combined and heated at 100° C. for 1.5 hours. The reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane (100 mL) and washed with 10% aqueous sodium carbonate (20 mL). The organic was dried over sodium sulphate and evaporated to provide a clear oil. This was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (92:8:0.8 to 90:10:1) to produce a clear oil which was triturated with diethyl ether (3 mL), a white solid was isolated as the title compound (0.034 g, 24%). 1H NMR (400 MHz, CDCl3) δ 1.82-1.95 (m, 4H), 2.0-2.10 (m, 2H), 2.30 (m, 2H), 2.60-2.70 (m, 2H), 2.70-2.80 (m, 6H), 3.62 (t, 2H), 3.89 (m, 2H), 3.95 (t, 2H), 6.80 (d, 2H), 7.20 (d, 2H), 7.95 (d, 1H). HRMS ESI+ m/z 357.2279 [MH]+.

reactant | N-[(dimethylamino)methylene]-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxamide | 0.39 mmol, 0.15 g | CN(C)C=NC(=O)C1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C22H33N3O3
reactant | hydrazine hydrate | 0.98 mmol, 0.048 mL | O.NN
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1H-1,2,4-triazole | 0.034 g, 24% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C1=NNC=N1 | C20H28N4O2
